US07405302B2
Step 1: Synthesis of 2-Iodo-6-methoxy-pyridin-3-ylamine
5-Amino-2-methoxypyridine (10.0 g, 0.081 mol) was dissolved in EtOH (50 mL), and silver sulfate (27.6 g, 0.089 mol) and iodine (22.5 g, 0.089 mol) were added. The reaction was stirred at room temperature overnight, and then the mixture was filtered over Celite to remove solids. The filtrate was concentrated and purified on silica gel (0-50% EtOAc in hexanes) to give the desired product.

reactant | 5-Amino-2-methoxypyridine | 0.081 mol, 10.0 g | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | iodine | 0.089 mol, 22.5 g | II | I2
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | silver sulfate | 0.089 mol, 27.6 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 2-Iodo-6-methoxy-pyridin-3-ylamine | IC1=NC(=CC=C1N)OC | C6H7IN2O
